US08486979B2
tert-butyl 3-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)benzoate
N′-Hydroxynicotinimidamide (274 mg, 2.00 mmol) was coupled with 3-(tert-butoxycarbonyl)benzoic acid (Aldrich) according to the procedure described in Example 8. 1H NMR (300 MHz, CD3OD) δ 1.65 (s, 9 H), 7.65 (ddd, J=7.9, 4.8, 0.8 Hz, 1 H), 7.71-7.77 (m, 1 H), 8.26 (ddd, J=7.7, 1.8, 1.6 Hz, 1 H), 8.42-8.46 (m, 1 H), 8.57 (dt, J=7.9, 2.0 Hz, 1 H), 8.73-8.78 (m, 2 H), 9.31 (dd, J=2.2, 1.0 Hz, 1 H) ppm; MS (DCI/NH3) m/z 324 (M+H)+.

reactant | N′-Hydroxynicotinimidamide | 2.00 mmol, 274 mg | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 3-(tert-butoxycarbonyl)benzoic acid | C(C)(C)(C)OC(=O)C=1C=C(C(=O)O)C=CC1 | C12H14O4
reactant | NH3 | N | H3N
product | tert-butyl 3-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)benzoate | N1=CC(=CC=C1)C1=NOC(=N1)C=1C=C(C(=O)OC(C)(C)C)C=CC1 | C18H17N3O3
